US05635510
25.1 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
The method of example 3.1 was used with 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (1 mmol) and 3,5-dimethoxy-benzoyl chloride (1 mmol) to prepare the title compound. Chromatography on silica gel eluting sequentially with ethyl acetate and then 6% methanol in dichloromethane gave the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 1 mmol | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 3,5-dimethoxy-benzoyl chloride | 1 mmol | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
product | 2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=CC(=C1)OC)OC)=O)CCO | C21H23Cl2NO4
